US04415572
2-Nitro-5-piperazinylbenzaldehyde (5 g) was suspended in 50 ml of DMF and 6 ml of triethylamine was added to the suspension. A solution of 4.4 g of 3,4-dimethoxybenzoyl chloride in 20 ml of DMF was added dropwise thereto with ice cooling externally while stirring and the mixture was stirred at room temperature for 2 hours and poured into saturated saline and extracted with methylene chloride. After washing with water, the methylene chloride layer was dried over anhydrous sodium sulfate. Then, the solvent was removed by distillation and to the residue was added methyl alcohol and the mixture was heated and cooled and crystals which formed were recrystallized form DMF to give 4.5 g of 2-nitro-5-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]benzaldehyde, m.p. 196°-198° C., yellow crystal.

reactant | 2-Nitro-5-piperazinylbenzaldehyde | 5 g | [N+](=O)([O-])C1=C(C=O)C=C(C=C1)N1CCNCC1 | C11H13N3O3
reactant | triethylamine | 6 ml | C(C)N(CC)CC | C6H15N
reactant | 3,4-dimethoxybenzoyl chloride | 4.4 g | COC=1C=C(C(=O)Cl)C=CC1OC | C9H9ClO3
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 2-nitro-5-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]benzaldehyde | 4.5 g | [N+](=O)([O-])C1=C(C=O)C=C(C=C1)N1CCN(CC1)C(C1=CC(=C(C=C1)OC)OC)=O | C20H21N3O6
